US07662402B2
100 ml of trifluoromethanesulfonic anhydride was added dropwise to 79.2 g of 2,2,3,3-tetrafluoropropanol at 0° C. Then, the mixture was stirred at room temperature for 1 hour and at 60° C. for 3 hours. Thereafter, the reaction mixture was poured to ice water and then extracted with diethyl ether. The organic layer was washed successively with water and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 100 g of 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate.

reactant | 2,2,3,3-tetrafluoropropanol | 79.2 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | trifluoromethanesulfonic anhydride | 100 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate | 100 g | FC(S(=O)(=O)OCC(C(F)F)(F)F)(F)F | C4H3F7O3S
